US08440665B2
The 4-bromo-N-(5-(hydrazinecarbonyl)thiophen-3-yl)picolinamide (600 mg, 1.8 mmol) and toluene (9 mL) were added to a sealable vial, N,N-dimethylformamide N,N-dimethylacetamide (600 μL, 4.5 mmol) was added and the reaction was stirred for 5 minutes. Cyclopropyl amine (490 μL, 7.2 mmol), and acetic acid (100 μL, 1.8 mmol) were added and the reaction was heated in a microwave reactor at 145° C. for 30 minutes. The solvent was removed under reduced pressure, and the product, 4-bromo-N-(5-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiophen-3-yl)picolinamide 350 mg (50%), was isolated by precipitation from acetonitrile/methanol. Alternatively, the reaction mixture may be purified by flash chromatography. M+1=390.1

reactant | 4-bromo-N-(5-(hydrazinecarbonyl)thiophen-3-yl)picolinamide | 1.8 mmol, 600 mg | BrC1=CC(=NC=C1)C(=O)NC1=CSC(=C1)C(=O)NN | C11H9BrN4O2S
reactant | N,N-dimethylformamide N,N-dimethylacetamide | 4.5 mmol, 600 μL | CN(C(C)=O)C.CN(C=O)C
reactant | Cyclopropyl amine | 7.2 mmol, 490 μL | C1(CC1)N | C3H7N
reactant | acetic acid | 1.8 mmol, 100 μL | C(C)(=O)O | C2H4O2
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-N-(5-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiophen-3-yl)picolinamide | 350 mg, 50% | BrC1=CC(=NC=C1)C(=O)NC1=CSC(=C1)C1=NN=CN1C1CC1 | C15H12BrN5OS
